US07816522B2
(11b) (3-hydroxymethyl-5-triisopropylsilanyloxyphenyl)methanol
To a 100 ml THF solution containing 21.53 g of 5-triisopropylsilanyloxyisophthalic acid dimethyl ester there was added 7.1 g of lithium aluminum hydride at 0° C. After stirring at 0° C. for 1 hour, the mixture was stirred at room temperature for 3 hours and 30 minutes. Water and 1N aqueous sodium hydroxide were added to the reaction mixture which was then filtered through celite. The filtrate was extracted with ethyl acetate. The organic layer was then washed with saturated brine and dried over anhydrous sodium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (13.53 g) as a colorless solid.

reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | 5-triisopropylsilanyloxyisophthalic acid dimethyl ester | 21.53 g | COC(C1=CC(C(=O)OC)=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C)=O | C19H30O5Si
reactant | lithium aluminum hydride | 7.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | Water | O | H2O
product | (3-hydroxymethyl-5-triisopropylsilanyloxyphenyl)methanol | 13.53 g | OCC=1C=C(C=C(C1)O[Si](C(C)C)(C(C)C)C(C)C)CO | C17H30O3Si
